US06992083B2
To a stirred solution of 40 g (18 mmol) (4-methoxy-benzooxazol-2-yl)-carbamic acid methyl ester and 4.4 g (54 mmol) sodium acetate in 20 ml acetic acid at room temperature was added dropwise 8.8 g (54 mmol) iodine monochloride and stirring continued for 30 h. The mixture was then poured onto water and extracted three times with ethyl acetate. The combined organic phases were washed with 1 M aqueous sodium thiosulphate solution, then dried over sodium sulfate and concentrated in vacuo. Trituration in ether afforded 4.1 g (65%) (7-iodo-4-methoxy-benzooxazol-2-yl)-carbamic acid methyl ester as a white crystalline solid. ES-MS m/e (%): 349 (M+H+, 100).

reactant | (4-methoxy-benzooxazol-2-yl)-carbamic acid methyl ester | 18 mmol, 40 g | COC(NC=1OC2=C(N1)C(=CC=C2)OC)=O | C10H10N2O4
reactant | sodium acetate | 54 mmol, 4.4 g | C(C)(=O)[O-].[Na+]
reactant | iodine monochloride | 54 mmol, 8.8 g | ICl | ClI
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
product | (7-iodo-4-methoxy-benzooxazol-2-yl)-carbamic acid methyl ester | 4.1 g, 65% | COC(NC=1OC2=C(N1)C(=CC=C2I)OC)=O | C10H9IN2O4
